US09163027B2
2-[3-(4-chlorophenoxy)propyl]-5-methyl-7-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 1,1,1-trifluoro-2,4-pentanedione (91 mg, 0.594 mmol), 3-[3-(4-chlorophenoxy)propyl]-1H-1,2,4-triazol-5-amine (150 mg, 0.594 mmol), and glacial acetic acid (2.0 mL) was added to a 50 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser, and warmed in an oil bath to a gentle reflux at 135° C. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. The starting material elutes with retention time of 5.1 min, and the product elutes with retention time of 6.89 min. After 15 h, the solution was allowed to cool to room temperature and added to stirring ice/water (17 mL). Solid material was isolated by filtration, rinsed with 15 mL of water, and then dried under reduced pressure. The solid was dissolved in ethanol (3 mL) and water (1 mL) with gentle warming and allowed to cool. The needles that formed were isolated by filtration, washed with 3 mL of cold ethanol, and allowed to dry to afford the title compound (92 mg, 41% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.83 (s, 1H), 7.31 (d, 2H), 6.95 (d, 2H), 4.09 (t, 2H), 3.03 (t, 2H), 2.70 (s, 3H), 2.21 (m, 2H).

reactant | 1,1,1-trifluoro-2,4-pentanedione | 0.594 mmol, 91 mg | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | 3-[3-(4-chlorophenoxy)propyl]-1H-1,2,4-triazol-5-amine | 0.594 mmol, 150 mg | ClC1=CC=C(OCCCC2=NNC(=N2)N)C=C1 | C11H13ClN4O
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 2-[3-(4-chlorophenoxy)propyl]-5-methyl-7-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidine | 92 mg, 41% yield | ClC1=CC=C(OCCCC2=NN3C(N=C(C=C3C(F)(F)F)C)=N2)C=C1 | C16H14ClF3N4O
